** sch_path: /home/kishan/final_project/current_steering_dac_2bit/current_steering_dac_2bit.sch
**.subckt current_steering_dac_2bit
XM5 net1 net2 GND GND sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
XM2 net2 net2 GND GND sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
R1 net2 VDD 92.75k m=1
XM1 out1 net3 net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM3 out2 net4 net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM4 out1 A net5 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM6 out2 net8 net5 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
R2 VDD out1 5k m=1
R5 VDD out2 5k m=1
V7 VDD GND {VDD}
XM7 net5 net2 GND GND sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
XM8 out1 net7 net6 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM9 out2 net9 net6 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XM10 net6 net2 GND GND sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
V2 A GND PULSE(0 1.8 200n 1n 1n 200n 400n)
V3 B GND PULSE(0 1.8 100n 1n 1n 100n 200n)
x1 VDD A B net4 net3 net8 net9 net7 GND decoder
**** begin user architecture code

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt_mm
.param VDD=1.8
.temp 27
.tran 1n 800n
.meas tran I00 AVG par('(VDD-V(out1))/5k') FROM=50n TO=90n
.meas tran I01 AVG par('(VDD-V(out1))/5k') FROM=150n TO=190n
.meas tran I10 AVG par('(VDD-V(out1))/5k') FROM=250n TO=290n
.meas tran I11 AVG par('(VDD-V(out1))/5k') FROM=350n TO=390n

**** end user architecture code
**.ends

* expanding   symbol:  decoder.sym # of pins=9
** sym_path: /home/kishan/final_project/current_steering_dac_2bit/decoder.sym
** sch_path: /home/kishan/final_project/current_steering_dac_2bit/decoder.sch
.subckt decoder VDD A B S1' S1 S2' S3' S3 GND
*.ipin A
*.ipin B
*.ipin VDD
*.ipin GND
*.opin S1'
*.opin S1
*.opin S2'
*.opin S3
*.opin S3'
x3 VDD A S1' B GND nor
x1 VDD S1' S1 GND inverter
x4 VDD A S2' GND inverter
x6 VDD A S3' B GND nand
x2 VDD S3' S3 GND inverter
.ends


* expanding   symbol:  nor.sym # of pins=5
** sym_path: /home/kishan/final_project/current_steering_dac_2bit/nor.sym
** sch_path: /home/kishan/final_project/current_steering_dac_2bit/nor.sch
.subckt nor VDD B out A VSS
*.ipin A
*.ipin B
*.ipin VDD
*.ipin VSS
*.opin out
XM1 out A VSS GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM3 out B VSS GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM2 out A net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/kishan/final_project/current_steering_dac_2bit/inverter.sym
** sch_path: /home/kishan/final_project/current_steering_dac_2bit/inverter.sch
.subckt inverter VDD Vin Vout VSS
*.ipin VDD
*.ipin Vin
*.ipin VSS
*.opin Vout
XM1 Vout Vin VSS GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM2 Vout Vin VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  nand.sym # of pins=5
** sym_path: /home/kishan/final_project/current_steering_dac_2bit/nand.sym
** sch_path: /home/kishan/final_project/current_steering_dac_2bit/nand.sch
.subckt nand VDD A out B VSS
*.ipin A
*.ipin VDD
*.ipin B
*.ipin VSS
*.opin out
XM1 net1 B VSS GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM2 out A net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM3 out A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM4 out B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
